US07994163B2
Add sodium hydride (22 mg, 0.54 mmol, 60% dispersion in mineral oil) to phenol (42 mg, 0.04 mL, 0.45 mmol) in anhydrous DMF (2 mL). Stir the mixture under nitrogen for 5 min and then add 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine (175 mg, 0.45 mmol) in anhydrous DMF (2 mL) followed by catalytic potassium iodide (1 mg). Stir the reaction at 45° C. for 12 h then cool to room temperature and partition between EtOAc/water. Wash the organic phase with brine. Dry the organic phase over MgSO4, filter and concentrate in vacuo to give a yellow oil. Purify the crude mixture by chromatography on silica gel eluting with hexane/EtOAc (9:1) to give 3-tert-butoxycarbonyl-7-chloro-6-phenoxymethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a colorless oil (59 mg, 36%).

reactant | sodium hydride | 0.54 mmol, 22 mg | [H-].[Na+]
reactant | phenol | 0.45 mmol, 0.04 mL, 42 mg | C1(=CC=CC=C1)O | C6H6O
reactant | 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.45 mmol, 175 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CCl | C16H21Cl2NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | potassium iodide | 1 mg | [I-].[K+]
product | 3-tert-butoxycarbonyl-7-chloro-6-phenoxymethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 59 mg, 36% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)COC2=CC=CC=C2 | C22H26ClNO3
